US08431596B2
N*5*-Cyclopentyl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine
To a solution of 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.5 g, 2.35 mmol) in dimethylacetamide (2 mL), cyclopentylamine (2.3 mL, 23.5 mmol) was added and the solution was heated under microwave irradiation (180° C., 180 min). The resulting mixture was dilluted with water and extracted into ethyl acetate. The organics were washed with water then brine, and dried over magnesium sulfate. The solid (0.5 g) was used without further purification. LCMS1: 2.84 min, 218 [M+1].

reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.35 mmol, 0.5 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | cyclopentylamine | 23.5 mmol, 2.3 mL | C1(CCCC1)N | C5H11N
reactant | water | O | H2O
solvent | dimethylacetamide | 2 mL | CC(=O)N(C)C | C4H9NO
product | N*5*-Cyclopentyl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine | C1(CCCC1)NC1=CC=CC=2N1N=C(N2)N | C11H15N5
